US04503045
2.0 Grams of 2'-deoxy-3',5'-di-O-propionyl-5-fluorouridine are dissolved in 25 ml of dry dioxane and the solution is ice cooled. 2 Milliliters of triethylamine and 2.2 g of 2,3-dimethoxybenzoyl chloride are added to the solution and the mixture is subjected to reaction at room temperature for 30 minutes and then at 50° C. for 30 minutes. The reaction liquid is cooled and then triethylamine hydrochloride is filtered off. The filtrate is concentrated under reduced pressure and the residue is purified by column chromatography on silica gel (elution solvent: chloroform). The purified oily substance is allowed to stand overnight at room temperature whereby a part of the substance is crystallized. A small amount of ethanol is added to crystallize the substance wholly and the crystals are collected by filtration whereby 2.3 g (yield: 79.0%) of 3-(2,3-dimethoxybenzoyl)-2'-deoxy-3',5'-di-O-propionyl-5-fluorouridine are obtained. M.P. 84.5°-86° C.

reactant | 2'-deoxy-3',5'-di-O-propionyl-5-fluorouridine | C(CC)(=O)O[C@H]1C[C@@H](O[C@@H]1COC(CC)=O)N1C(=O)NC(=O)C(=C1)F | C15H19FN2O7
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2,3-dimethoxybenzoyl chloride | 2.2 g | COC1=C(C(=O)Cl)C=CC=C1OC | C9H9ClO3
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-(2,3-dimethoxybenzoyl)-2'-deoxy-3',5'-di-O-propionyl-5-fluorouridine | 2.3 g, yield: 79.0% | COC1=C(C(=O)N2C(N([C@H]3C[C@H](OC(CC)=O)[C@@H](COC(CC)=O)O3)C=C(C2=O)F)=O)C=CC=C1OC | C24H27FN2O10
